US07943669B2
Step A: {2-Methyl-4-[3-(2-morpholin-4-yl-ethoxy)-5-phenylethynyl-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester
[4-(3-Hydroxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (200 mg; 0.48 mmol), 2-morpholin-4-yl-ethanol (0.22 g; 0.67 mmol) and tributylphosphine (0.24 mL; 0.96 mmol) were dissolved in THF (15 mL) in a dried reaction flask under an atmosphere of nitrogen. 1,1′-(Azodicarbonyl)dipiperidine (0.24 g; 0.96 mmol) was dissolved in THF (10 mL) and added to the reaction mixture. After stirring for 16 h the reaction mixture was evaporated to dryness and purified by flash chromatography (ethyl acetate:heptane (1:3→1:9). Yield: 150 mg. HPLC-MS: m/z: 532.6 (M+H); Rt: 2.07 min.

reactant | [4-(3-Hydroxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester | 0.48 mmol, 200 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)O)C)=O | C25H22O4S
reactant | 2-morpholin-4-yl-ethanol | 0.67 mmol, 0.22 g | N1(CCOCC1)CCO | C6H13NO2
reactant | tributylphosphine | 0.96 mmol, 0.24 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 0.96 mmol, 0.24 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {2-Methyl-4-[3-(2-morpholin-4-yl-ethoxy)-5-phenylethynyl-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)OCCN1CCOCC1)C)=O | C31H33NO5S
